US07786165B2
ethyl(2E)-3-(4-amino-2-fluorophenyl)acrylate
4-Bromo-3-fluoroaniline (13.3 g, 70.0 mmol), ethyl acrylate (9.48 mL, 87.5 mmol) and tris(2-methylphenyl)phosphine (8.52 g, 28.0 mmol) were dissolved in N,N-diisopropylethylamine (50 mL) and N,N-dimethylformamide (50 mL), palladium(II) acetate (0.786 g, 3.50 mmol) was added, and the mixture was stirred under an argon atmosphere at 110° C. for 5 hr. After cooling the reaction mixture, the solvent was evaporated under reduced pressure. Water and ethyl acetate were added to the residue, and the insoluble material was removed by filtering through celite. The organic layer in the filtrate was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (20%-60% ethyl acetate/hexane) to give the title compound (14.0 g, yield 96%). A part thereof was recrystallized to give yellow prism crystals.

reactant | 4-Bromo-3-fluoroaniline | 70.0 mmol, 13.3 g | BrC1=C(C=C(N)C=C1)F | C6H5BrFN
reactant | ethyl acrylate | 87.5 mmol, 9.48 mL | C(C=C)(=O)OCC | C5H8O2
reactant | tris(2-methylphenyl)phosphine | 28.0 mmol, 8.52 g | CC1=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C | C21H21P
solvent | N,N-diisopropylethylamine | 50 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
catalyst | palladium(II) acetate | 3.50 mmol, 0.786 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | ethyl(2E)-3-(4-amino-2-fluorophenyl)acrylate | 14.0 g, yield 96% | NC1=CC(=C(C=C1)/C=C/C(=O)OCC)F | C11H12FNO2
